* source ANALOGYGND
R_RL         0 OUT  1k TC=0,0 
V_Vin         IN 0  AC 1
+SIN 2 1 1k 0 0 0
V_V1         +15 0 15
V_V2         -15 0 -15
X_U1A         N01165 N01589 +15 -15 OUT TL072/301/TI
R_Ri         N01165 IN  1k TC=0,0 
R_bk1_R4         N01589 0  10k TC=0,0 
R_bk1_R2         OUT N01589  10k TC=0,0 
